US07358268B2
(i) 2-Iodo-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester
A solution of 5 g 5-Methyl-3H-imidazole-4-carboxylic acid ethyl ester and 7.2 g NIS in 50 ml THF were refluxed for 10 h. After cooling, the solvent was removed under reduced pressure and the residue taken-up in ethyl acetate, washed with sat. NaS2O3 solution and dried over MgSO4. After removal of the solvent under reduced pressure the product was purified by recrystallisation from ethyl acetate. Yield: 7 g

reactant | 5-Methyl-3H-imidazole-4-carboxylic acid ethyl ester | 5 g | C(C)OC(=O)C=1NC=NC1C | C7H10N2O2
reactant | NIS | 7.2 g | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-Iodo-5-methyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC(=NC1C)I | C7H9IN2O2
